US07411072B2
8-Fluoro-5-methylene-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridine
Chill a mixture of 8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (1.3 g, 5.7 mmol) and dry tetrahydrofuran (50 mL) to 0° C. Treat this mixture with methyl magnesium bromide(3.0M solution in diethyl ether, 5.7 mL, 17.2 mmol). Remove cooling and stir the admixture at room temperature for 15 min. Quench the reaction, while cooling with an ice-water bath, by adding saturated aqueous ammonium chloride solution (50 mL). Separate the layers and extract the aqueous layer with methylene chloride (2×50 mL). Dry the combined organic layers with magnesium sulfate, filter and concentrate to provide the intermediate product as a thick crude oil.

reactant | 8-fluoro-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 5.7 mmol, 1.3 g | FC1=CC2=C(C(C=3C(=NC=CC3)CC2)=O)C=C1 | C14H10FNO
reactant | methyl magnesium bromide | 17.2 mmol, 3.0M, 5.7 mL | C[Mg]Br
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 8-Fluoro-5-methylene-10,11-dihydro-benzo[4,5]cyclohepta[1,2-b]pyridine | FC1=CC2=C(C(C=3C(=NC=CC3)CC2)=C)C=C1 | C15H12FN
